US09102621B2
5-Chloro-2-fluoro-4-methylbenzoic acid
To a stirred solution of methyl 5-chloro-2-fluoro-4-methylbenzoate (Preparation 20, 340 mg, 1.68 mmol) in 12 mL of dioxane/water (5:1) was added aqueous sodium hydroxide (5 M, 1.63 mL, 8.39 mmol). The reaction mixture was stirred at room temperature for 18 hours and then evaporated in vacuo. The resulting residue was suspended in water and extracted with diethyl ether (3×20 mL). The aqueous layer was cooled in an ice bath, acidified with aqueous hydrochloric acid (6 M) and extracted with EtOAc (30 mL). The organic layer was separated, washed with brine (2×20 mL), dried over sodium sulfate, filtered and evaporated in vacuo to yield the title compound as a white solid (266 mg, 84%).

reactant | methyl 5-chloro-2-fluoro-4-methylbenzoate | 1.68 mmol, 340 mg | ClC=1C(=CC(=C(C(=O)OC)C1)F)C | C9H8ClFO2
reactant | sodium hydroxide | 8.39 mmol, 5 M, 1.63 mL | [OH-].[Na+]
solvent | dioxane water | 12 mL | O1CCOCC1.O
product | 5-Chloro-2-fluoro-4-methylbenzoic acid | 266 mg, 84% | ClC=1C(=CC(=C(C(=O)O)C1)F)C | C8H6ClFO2
